US09283229B2
To the solution of 3-fluoro-4,5-dihydroxybenzaldehyde (200 mg, 1.28 mmol) in DMF (50 mL) was added iodo-ethane (240 mg, 1.53 mmol) and K2CO3 (210 mg, 1.53 mmol) at 0° C., and the mixture was stirred at room temperature overnight. The reaction mixture was poured into ice-water solution, and extracted with EtOAc. The combined organic layers were washed with brine, dried with Na2SO4, concentrated under reduced pressure, and purified by column chromatography to give 3,4-diethoxy-5-fluorobenzaldehyde (100 mg, 36.8% yield).

reactant | 3-fluoro-4,5-dihydroxybenzaldehyde | 1.28 mmol, 200 mg | FC=1C=C(C=O)C=C(C1O)O | C7H5FO3
reactant | iodo-ethane | 1.53 mmol, 240 mg | ICC | C2H5I
reactant | K2CO3 | 1.53 mmol, 210 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3,4-diethoxy-5-fluorobenzaldehyde | 100 mg, 36.8% yield | C(C)OC=1C=C(C=O)C=C(C1OCC)F | C11H13FO3
